US08957205B2
N-[[1-[(2-Furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valinol
Under an argon atmosphere, 72 mg (0.59 mmol) of isopropyl chlorocarbonate was added to a solution of 200 mg (0.59 mmol) of N-[[1-[(2-furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valine and 60 mg (0.59 mmol) of triethylamine in 2 ml of tetrahydrofuran under ice-cooling. After the mixture was stirred at 0° C. for 2 hours, the reaction solution was filtered and poured into a solution of 45 mg (1.2 mmol) of sodium borohydride in 1 ml of water, and the mixture was stirred overnight. Ethyl acetate was added to the reaction solution, and the mixture was successively washed with a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with sodium sulfate. After the solvent was distilled off under reduced pressure, the obtained crystal was washed with ether to give 30 mg (16%) of the title compound.

reactant | isopropyl chlorocarbonate | 0.59 mmol, 72 mg | C(OC(C)C)(=O)Cl | C4H7ClO2
reactant | N-[[1-[(2-furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valine | 0.59 mmol, 200 mg | O1C(=CC=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)C(=O)O | C17H24N2O5
reactant | triethylamine | 0.59 mmol, 60 mg | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 1.2 mmol, 45 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[[1-[(2-Furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valinol | 30 mg, 16% | O1C(=CC=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)CO | C17H26N2O4
